US07678815B2
A Schlenck flask was charged with 5-amino-2-methyl-thiazole-4-carboxylic acid ethyl ester (0.33 g, 1.80 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.15 g, 0.26 mmol) and palladium dibenzylideneacetone (Pd2dba3)-chloroform complex (0.08 g, 0.08 mmol). Degassed dioxane (6.00 ml) was added, followed by 3-bromopyridine (0.23 g, 1.50 mmol). The flask was subjected to 5 cycles of evacuation and backfiring with argon. The reaction mixture was then transferred under argon to a microwave vial containing cesium carbonate (0.84 g, 2.60 mmol). The vial was then irradiated in a microwave oven at 150° C. for 10 min. The mixture was diluted with THF and the solids filtered, washing with THF. The filtrate was evaporated and the residue purified by flash chromatography (ethyl acetate/methanol) to yield 2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester (0.25 g, 65%) as a light yellow solid, MS (ISP): m/e=264.1 (M+H+).

reactant | 5-amino-2-methyl-thiazole-4-carboxylic acid ethyl ester | 1.80 mmol, 0.33 g | C(C)OC(=O)C=1N=C(SC1N)C | C7H10N2O2S
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.26 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 3-bromopyridine | 1.50 mmol, 0.23 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | cesium carbonate | 2.60 mmol, 0.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | 6.00 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester | 0.25 g, 65% | C(C)OC(=O)C=1N=C(SC1NC=1C=NC=CC1)C | C12H13N3O2S
